US08486966B2
5-Isopropoxy-1H-pyrazol-3-amine
The title compound may be prepared via the following procedure: To a suspension of 3-amino-5-hydroxypyrazole (0.50 mol) in CH2Cl2 is added triphenylphosphine (0.59 mol) and the resulting mixture is cooled to 0° C. Diisopropyl azodicarboxylate (0.59 mol) is added drop-wise over a period of 35 minutes (the temperature of the reaction mixture is kept below 2° C.) to give a suspension. The reaction mixture is then held at 0° C. for 1 hour. A precipitate may be observed after 30 minutes of the reaction. Isopropyl alcohol (1.25 mol) is then added drop-wise over a period of 30 minutes at 0° C. as the slurry thins considerably to give a suspension. The reaction mixture is then held at 0° C. for 1 hour. The reaction mixture is warmed slowly to ambient temperature and is then held at ambient temperature overnight. The reaction mixture is filtered to remove undissolved solids. The filtrate is dried (MgSO4) and concentrated under reduced pressure to give an oil. Purification by column chromatography (5%→10% MeOH in CH2Cl2) affords the title compound. (400 MHz, DMSO-d6) δ ppm 10.3 (br s, 1H), 4.84 (br s, 2H), 4.65 (s, 1H), 4.52 (m, 1H), 1.20 (m, 6H).

reactant | 3-amino-5-hydroxypyrazole | 0.50 mol | NC1=NNC(=C1)O | C3H5N3O
reactant | triphenylphosphine | 0.59 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 0.59 mol | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Isopropyl alcohol | 1.25 mol | C(C)(C)O | C3H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Isopropoxy-1H-pyrazol-3-amine | C(C)(C)OC1=CC(=NN1)N | C6H11N3O
